US08242133B2
To a mixture of 1.69 g of N-(2-hydroxy-5-trifluoromethylphenyl)isonicotinamide, 25 ml of tetrahydrofuran and 2.36 g of triphenylphosphine, 3.91g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature. After 1.3 hours, 0.6 g of triphenylphosphine and 1.0 g of 40% toluene solution of diethyl azodicarboxylate were added and stirred for further 40 minutes. Water was poured into the mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over sodium sulfate, and then concentrated under reduced pressure. The residue was washed with diethyl ether, and 10 ml of methanol and 10 ml of 1 M aqueous solution of sodium hydroxide were added and stirred for two hours at room temperature. After concentrated hydrochloric acid was added to the reaction mixture while ice-cooling so as to make it acidic, the reaction mixture was washed with ethyl acetate. To the aqueous layer, 1 M aqueous solution of sodium hydroxide was added so as to make the solution alkaline, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.44 g of 2-(pyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 13”).

reactant | N-(2-hydroxy-5-trifluoromethylphenyl)isonicotinamide | 1.69 g | OC1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C13H9F3N2O2
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 2.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Water | O | H2O
solvent | toluene | 1.0 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.91g | C1(=CC=CC=C1)C | C7H8
product | 2-(pyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.44 g | N1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H7F3N2O
